* 2-input NAND gate
* tpd 125n
* tr 100n
.SUBCKT CD4011B  A B Y  VDD VGND  vdd1={vdd} speed1={speed} tripdt1={tripdt}
.param td1=1e-9*(125-40-10)*5/{vdd1}*{speed1}
*
XIN1  A Ai  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1}
XIN2  B Bi  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1}
*
A1  Ai Bi 0 0 0  Yi 0 0  AND  tripdt={tripdt1}  td={td1}
*
XOUT  Yi Y  VDD VGND  CD40_OUT_1X  vdd2={vdd1} speed2={speed1}  tripdt2={tripdt1}
.ends
*
*
.SUBCKT  CD40_IN_1  in out  VDD VGND  vdd3={vdd2} speed3={speed2}  tripdt3={tripdt2}
* 3ns input delay
*.param Cval = 0.55e-12*4/({vdd3}-0.5)*{speed3}
* 10ns delay @5V
.param Cval = 1.8e-12*5/{vdd3}*{speed3}
.param vt1=0.5
.param gain=(1/{vdd3})
*
*D1 0   in  CD40DIO1
*D2 in VDD  CD40DIO1
R1 in out10 10k
C1 out10 VGND {Cval}
R2 in VGND 1e8
**E1 out20 0 out10 VGND {gain}
*B1 out20 0 V=LIMIT(0,V(out10,VGND)*{gain},1)
B1 out20 0 V=LIMIT(0,V(out10,VGND)/max(V(VDD,VGND),1),1)
AE1  out20 0 0 0 0  0 out 0  BUF  ref={vt1}  vhigh=1  tripdt={tripdt3}
.ends
*
*
.MODEL DIO2 D(Is=1e-12 Rs=10)
*
* Standard output driver
.SUBCKT  CD40_OUT_1X  in out  VDD VGND  vdd3={vdd2} speed3={speed2}  tripdt3={tripdt2}
.param trise1=80e-9*5.0/{vdd3}*{speed3}
.param Rout=500*5.0/{vdd3}*{speed3}
*
AE1  in 0 0 0 0  0 out10 0  BUF  tripdt={tripdt3}  trise={trise1}
*
*E1 out20 VGND out10 0 {vdd3}
B1 out20 VGND V=V(out10)*V(VDD,VGND)
Rout out20 out {Rout}
*D1 0   out  DIO2
*D2 out VDD  DIO2
.ends
