.SUBCKT BR100 1 2             ;BR100 (DB3) 32V 2A DIAC
RS 1 N006 10
RV N002 N004 225K              ;Vbrkdwn = 32V (RV changes it)
R1 N006 N002 10K               ;Sets Ibo to 60uA
R2 N004 2 10K                  ;Sets Ibo to 60uA
Q4 N002 N005 2 0 PNP
Q2 N004 N003 N006 0 PNP
Q1 N003 N004 2 0 NPN
Q3 N005 N002 N006 0 NPN
D5 N002 N005 D
D6 N004 N003 D
.MODEL NPN NPN(BF=20 TF=5u)
.MODEL PNP PNP(BF=2 TF=5u)
.MODEL D D
.ENDS BR100
