.SUBCKT irgb4061dpbf 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Feb 14, 07
* MODEL FORMAT: SPICE3
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k

X1 1 2 3 irgb4061dpbf_i
D1 3 1   irgb4061dpbf_d

.MODEL irgb4061dpbf_d d
+IS=6.92843e-10 RS=0.121017 N=2 EG=1.3
+XTI=0.528448 BV=600 IBV=0.0001 CJO=1.56732e-10
+VJ=0.4 M=0.404011 FC=0.5 TT=1e-09
+KF=0 AF=1

.ENDS irgb4061dpbf

.SUBCKT irgb4061dpbf_i 1 2 3
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=5.85528 KP=0.01 LAMBDA=0.00101246 CGSO=9.88208e-06
RD 7 9 1e-06
RS 4 8 1e-06
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=1.28682e-15 BF=1345.53 NF=0.85 VAF=159877
+IKF=333.969 ISE=1.00408e-17 NE=2.05405 BR=0.886076
+NR=1.5 VAR=1.36536 IKR=999.873 ISC=3.91437e-09
+NC=1 RB=0.0001 IRB=1453.16 RBM=9.99893e-05
+RE=1e-08 RC=1.00372e-08 XTB=0 XTI=4
+EG=0.5 CJC=7.95988e-10 VJC=0.4 MJC=0.589445
+CJE=1.59198e-08 VJE=0.4 MJE=0.2 TF=3.21085e-07
RDS 7 4 1e8
RER 4 3 0.00195194
RG 6 2 14.8519
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=5.9991e-10 VJ=0.581868 M=0.705221 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 7.74686e-10
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS irgb4061dpbf_i

